US07273865B2
N-(7-Methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-2-morpholin-4-yl-isonicotinamide
From 2-bromo-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide with cesium carbonate in morpholine. ES-MS m/e (%): 457 (M+H+, 100).

reactant | 2-bromo-N-(7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC=3C(=NC=C(C3N2)OC)N2CCOCC2)C=CN1 | C17H16BrN5O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | morpholine | N1CCOCC1 | C4H9NO
product | N-(7-Methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-yl)-2-morpholin-4-yl-isonicotinamide | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)NC(C2=CC(=NC=C2)N2CCOCC2)=O | C21H24N6O4S
